US05739344
The process of claim 17 wherein the 2-(4-nitrophenyl)-5-nitrobenzoxazole is reduced by hydrogen and palladium or platinum over carbon in the presence of ethoxyethanol under such conditions to form 2-(4-aminophenyl)-5-aminobenzoxazole.

reactant | 2-(4-nitrophenyl)-5-nitrobenzoxazole | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C13H7N3O5
reactant | hydrogen | [H][H] | H2
reactant | ethoxyethanol | C(C)OC(C)O | C4H10O2
catalyst | palladium | [Pd] | Pd
catalyst | platinum | [Pt] | Pt
product | 2-(4-aminophenyl)-5-aminobenzoxazole | NC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)N | C13H11N3O
